US07342131B2
To a solution of 2-(phenylmethoxy)benzoic acid (4.0 g, 17.5 mmol), (2R)-1-(tert-butyldimethylsiloxy)propan-2-ol (2.78 g, 14.6 mmol), and 4-(dimethylamino)pyridine (183 mg) in 100 mL of anhydrous dichloromethane, 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride (EDAC) (4.2 g, 17.5 mmol) was slowly added. The resulting mixture was stirred at room temperature for 48 hrs. The reaction mixture was diluted with dichloromethane and washed with 0.5N HCl twice followed by the addition of saturated NaHCO3 solution and brine. The organic layer was separated, dried through a MgSO4 pad, and concentrated under reduced pressure. Chromatography (silica gel, 1:12 ethyl acetate/hexane) of the residue afforded 1.7 g (29%) of (1R)-1-Methyl-2-(tert-butyldimethylsiloxy)ethyl 2-(phenylmethoxy)benzoate.

reactant | 2-(phenylmethoxy)benzoic acid | 17.5 mmol, 4.0 g | C1(=CC=CC=C1)COC1=C(C(=O)O)C=CC=C1 | C14H12O3
reactant | (2R)-1-(tert-butyldimethylsiloxy)propan-2-ol | 14.6 mmol, 2.78 g | O([Si](C)(C)C(C)(C)C)C[C@@H](C)O | C9H22O2Si
reactant | 1-(3-dimethylaminopropyl)3-ethylcarbodiimide hydrochloride | 17.5 mmol, 4.2 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-(dimethylamino)pyridine | 183 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (1R)-1-Methyl-2-(tert-butyldimethylsiloxy)ethyl 2-(phenylmethoxy)benzoate | 1.7 g, 29% | C1(=CC=CC=C1)COC1=C(C(=O)O[C@@H](CO[Si](C)(C)C(C)(C)C)C)C=CC=C1 | C23H32O4Si
